US06878712B1
(R)-[(2S,5R)-2-Methyl-5-methyl-4-(4-cyanophenylsulphonyl)-1-(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)piperazine]
To a stirred solution of (R)-[(2S,5R)-2-methyl-5-methyl-1-(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)piperazine] (J. Med. Chem., 1999, 42, 2741-2746] (254 mg, 1.0 mmol) and triethylamine (0.17 ml, 1.2 mmol) in EtOAc (15 ml) was added a solution of 4-cyanobenzene sulphonyl chloride (220 mg, 1.1 mmol) in EtOAc (10 ml). The resultant mixture was stirred at ambient temperature for 2 hours, washed with 1 M hydrochloric acid, saturated sodium hydrogen carbonate solution and brine, dried and evaporated. The residue was recrystallized from EtOAc/hexane to give the title compound as a solid (280 mg, 0.56 mmol). Mp: 186-187° C.; NMR: 0.95 (d, 3H), 1.25 (d, 3H), 1.75 (s, 3H), 3.25 (dd, 1H), 3.35 (d, 1H), 3.5 (dd, 1H), 4.2 (m, 3H), 4.75 (s, 1H), 7.8 (d, 2H), 7.9 (d, 2H); m/z 418.

reactant | (R)-[(2S,5R)-2-methyl-5-methyl-1-(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)piperazine] | C[C@@H]1N(C[C@H](NC1)C)C([C@@](C(F)(F)F)(C)O)=O | C10H17F3N2O2
reactant | triethylamine | 1.2 mmol, 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | 4-cyanobenzene sulphonyl chloride | 1.1 mmol, 220 mg | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | (R)-[(2S,5R)-2-Methyl-5-methyl-4-(4-cyanophenylsulphonyl)-1-(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)piperazine] | 0.56 mmol, 280 mg | C[C@@H]1N(C[C@H](N(C1)S(=O)(=O)C1=CC=C(C=C1)C#N)C)C([C@@](C(F)(F)F)(C)O)=O | C17H20F3N3O4S
